US05089509
4,4-Dimethyl-6-ethynylchroman
To a solution of 2.47 g (24.41 mmol) of diisopropylamine in 40 ml dry tetrahydrofuran under argon at -78° C. was added dropwise 15.2 ml of 1.6M (24.32 mmol) n-butyl lithium in hexane. Mixture was stirred at -78° C. for 1 hour and then treated dropwise with a solution of 4.98 g (24.38 mmol) of 4,4-dimethyl-6-acetylchroman in 4 ml of dry tetrahydrofuran. After stirring at -78° C. for 1 hour, the solution was treated with 4.2 g (24.36 mmol) of diethyl chlorophosphate. The cooling bath was then removed and mixture stirred at room temperature for 2.75 hours. This solution was then transferred using a double ended needle to a solution of lithium diisopropyl amide (prepared as per Example 4) using 4.95 g (48.92 mmol) of diisopropylamine and 30.5 ml of 1.6M (48.8 mmol) n-butyl lithium in hexane in 80 ml dry tetrahydrofuran at -78° C. The cooling bath was removed and mixture stirred at room temperature for 18 hours and then quenched with 50 ml water and 25 ml of 3N hydrogen chloride. The mixture was extracted with 2×100 ml and 3×50 ml of pentane and the combined organic fractions washed with 3N hydrogen chloride, water, saturated NaHCO3 and saturated NaCl solution and then dried (MgSO4). Solvent was then removed in vacuo and the residue purified by flash chromatography (silica; 10% ethyl acetate in hexane) followed by kugelrohr distillation (70° C.; 0.35 mm) to give the title compound as a colorless crystalline solid.

reactant | diisopropylamine | 24.41 mmol, 2.47 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 24.32 mmol, 1.6M | C(CCC)[Li]
reactant | 4,4-dimethyl-6-acetylchroman | 24.38 mmol, 4.98 g | CC1(CCOC2=CC=C(C=C12)C(C)=O)C | C13H16O2
reactant | diethyl chlorophosphate | 24.36 mmol, 4.2 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | diisopropylamine | 48.92 mmol, 4.95 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 48.8 mmol, 1.6M | C(CCC)[Li]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4,4-Dimethyl-6-ethynylchroman | CC1(CCOC2=CC=C(C=C12)C#C)C | C13H14O
